US07381818B2
Methyl 5-{2-[2-(2-{2-[2-(2-hydroxyethoxy)ethoxy]ethoxy}ethoxy)ethoxy]ethoxy}-3-(methoxycarbonyl)benzoate 23
Diethylazodicarboxylate (22.7 g, 130 mmol) was added over 3 min to a stirred solution of dimethyl 5-hydroxyisophthalate (21 g, 100 mmol), hexaethylene glycol (32 g, 113 mmol) and triphenylphosphine (34 g, 130 mmol) in 250 mL of anhydrous THF. After 2 h the reaction was concentrated and the residue suspended in 200 mL of ethyl ether. After being cooled at 0° C. for 30 min the precipitated triphenylphosphine oxide was removed by filtration and filtrate concentrated. The resultant mixture was chromatographed on silica eluting, first, with ethyl acetate to separate Ph3PO and symmetrical bis-substituted hexaethylene glycol by-product and, second, with 5% MeOH in ethyl acetate to elute desired mono-substituted hexaethylene glycol derivative. Evaporation of the solvent and drying under high vacuum afforded 14.8 g (31%) of the title compound as viscous oil. 1H NMR (DMSO-d6) δ 8.08 (s, 1H), 7.70 (s, 2H), 4.58 (t, J=5.5 Hz, 1H), 4.25 (m, 2H), 3.90 (s, 6H), 3.76 (m, 2H), 3.60 (m, 2H), 3.51 (m, 16H), 3.40 (m, 2H).

reactant | Diethylazodicarboxylate | 130 mmol, 22.7 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | dimethyl 5-hydroxyisophthalate | 100 mmol, 21 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | hexaethylene glycol | 113 mmol, 32 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | triphenylphosphine | 130 mmol, 34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | Methyl 5-{2-[2-(2-{2-[2-(2-hydroxyethoxy)ethoxy]ethoxy}ethoxy)ethoxy]ethoxy}-3-(methoxycarbonyl)benzoate | 14.8 g, 31% | OCCOCCOCCOCCOCCOCCOC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C22H34O11
